US05569412
Approximately 2000 ml of distilled water was heated to about 80 degrees C. A solution of SnCl4.5H2O in 500 ml of distilled water, 0.445 g SnO2 /ml was prepared. Approximately 52.5 g of P2O5 was dissolved in 440 ml of concentrated HCl, then an additional 217 ml of HCl was added. About 500 ml of concentrated HCl was added to the SnCl4 solution. The SnCl4 and P2O5 solutions were mixed together in a beaker.

reactant | P2O5 | 52.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
solvent | water | 500 ml | O | H2O
solvent | HCl | 440 ml | Cl | ClH
solvent | HCl | 500 ml | Cl | ClH
solvent | HCl | 217 ml | Cl | ClH
solvent | water | 2000 ml | O | H2O
product | SnCl4.5H2O | [Sn](Cl)(Cl)(Cl)Cl.O.O.O.O.O | InChI=1S/4ClH.5H2O.Sn/h4*1H;5*1H2;/q;;;;;;;;;+4/p-4
